US08563765B2
The fluorenone imine (1.52 g, 8.48 mmol) and the glycine tert-butylester hydrochloride (1.42 g, 8.48 mmol) were stirred in the methylene chloride for five hours at room temperature. The reaction solution was filtered with celite, and the solvent was removed by the distillation under reduced pressure. The obtained residual was allowed to dissolve in the diethyl ether. And, it was filtered with the celite. The obtained ether solution was cleaned with water and a saturated sodium chloride aqueous solution. And, it was dried over sodium sulfate. After the filtering and the concentration under reduced pressure were conducted, the obtained crude product was refined with the diethyl ether/hexane (recrystallization). And, (Fluoren-9-ylideneamino)-acetic acid tert-butyl ester (1.18 g, 66%) was obtained.

reactant | fluorenone imine | 8.48 mmol, 1.52 g | C1(C=CC=C2C3=CC=CC=C3C=C12)=N | C13H9N
reactant | glycine tert-butylester hydrochloride | 8.48 mmol, 1.42 g | Cl.C(C)(C)(C)OC(CN)=O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | diethyl ether hexane | C(C)OCC.CCCCCC
product | (Fluoren-9-ylideneamino)-acetic acid tert-butyl ester | 1.18 g, 66% | C(C)(C)(C)OC(CN=C1C2=CC=CC=C2C=2C=CC=CC12)=O | C19H19NO2
